US03952024
7-Methyl-benzofuran-2-aldehyde was prepared by formylating 7-methyl-benzofuran according to the same method as used for the preparation of benzofuran-2-aldehyde. The product thus obtained has the following ion peaks in its mass spectrum: 160 (100%), 159 (62%) and 131 (33%).

reactant | 7-methyl-benzofuran | CC1=CC=CC=2C=COC21 | C9H8O
reactant | benzofuran-2-aldehyde | O1C(=CC2=C1C=CC=C2)C=O | C9H6O2
product | 7-Methyl-benzofuran-2-aldehyde | CC1=CC=CC=2C=C(OC21)C=O | C10H8O2
